US08217069B2
9-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2-hydroxy-2-methyl-1-propoxy)-phenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one
To a solution of 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxy-carbonylmethoxyphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one (34 mg) in tetrahydrofuran (3 mL) was added methylmagnesium bromide (1 mol/L tetrahydrofuran solution, 031 mL) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/4) to give the title compound (4 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxy-carbonylmethoxyphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 34 mg | ClC1=C(C=C(C(=C1OC=C=O)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C24H19ClF2N4O7
reactant | methylmagnesium bromide | 1 mol/L | C[Mg]Br
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 9-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2-hydroxy-2-methyl-1-propoxy)-phenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 4 mg | ClC1=C(C=C(C(=C1)OCC(C)(C)O)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C25H25ClF2N4O6
